US08629271B2
c) 4-Bromo-1-fluoro-2-(2-methoxyvinyl)benzene (mixture of cis and trans isomers)
Potassium tert-butoxide (1.2 molar equivalents) was added portionwise, over 30 minutes, to a stirred suspension of (methoxymethyl)triphenylphosphonium chloride (1.3 molar equivalents) in THF (2.5 volumes) at −3° C. (+ or −2° C.). A deep red colour developed. The temperature was ramped to 18° C. over 0.5 hour and the reaction stirred for a further 1.5 hours. 5-Bromo-2-fluorobenzaldehyde (limiting reagent) as a solution in THF (5 volumes) was then added over 90 minutes, such that the temperature of the reaction did not exceed 24° C. The reaction was then stirred for 2 hours at room temperature. The reaction mixture was poured into saturated aqueous ammonium chloride solution (10 volumes) and extracted with t-BME (2×2.5 volumes). The combined extracts were washed with brine (3×2 volumes), dried (Na2SO4), filtered and evaporated in vacuo. The oily residue was extracted with iso-hexane (8×0.5 volumes). Combined iso-hexane extracts were filtered, then washed with glacial acetic acid (2 volumes) and 50% glacial acetic acid in water (2 volumes). After drying (Na2SO4) and filtering, the solvent was removed on a rotary evaporator to give a pale orange oil. Yield was 90% of theoretical.

reactant | Potassium tert-butoxide | 1.2 molar | CC(C)([O-])C.[K+]
reactant | (methoxymethyl)triphenylphosphonium chloride | 1.3 molar | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 5-Bromo-2-fluorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-Bromo-1-fluoro-2-(2-methoxyvinyl)benzene | Yield was 90% | BrC1=CC(=C(C=C1)F)C=COC | C9H8BrFO
